US07157455B2
The same procedure was used as described in Example 9 starting from (4-amino-2-ethanesulfonyl-pyrimidin-5-yl)-(5-fluoro-2-methoxy-phenyl)-methanone, Example 48, and (S)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester (Astatech), to give (S)-3-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester. MS (M+H)+, 432.

reactant | (4-amino-2-ethanesulfonyl-pyrimidin-5-yl)-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)S(=O)(=O)CC | C14H14FN3O4S
reactant | (S)-3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N | C9H18N2O2
product | (S)-3-[4-amino-5-(5-fluoro-2-methoxy-benzoyl)-pyrimidin-2-ylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C(=N1)N)C(C1=C(C=CC(=C1)F)OC)=O | C21H26FN5O4
